US08211401B2
A solution of (S)-di-tert-butyl 2-(3-((S)-6-amino-1-tert-butoxy-1-oxohexan-2-yl)ureido)pentanedioate (97 mg, 0.20 mmol), 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid (132 mg, 0.12 mmol), EDCI (38 mg, 0.20 mmol), HOBt (26 mg, 0.20) and DIPEA (0.30 mL) in DCM (5.0 mL) was stirred at rt for 2 days. The reaction mixture was purified by biotage eluting with 1% MeOH in DCM to afford (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate (impure) as an oil.

reactant | (S)-di-tert-butyl 2-(3-((S)-6-amino-1-tert-butoxy-1-oxohexan-2-yl)ureido)pentanedioate | 0.20 mmol, 97 mg | NCCCC[C@@H](C(=O)OC(C)(C)C)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O | C24H45N3O7
reactant | 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid | 0.12 mmol, 132 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)O)CCCCN(CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)CC=1N(C=CN1)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C | C57H78N8O14
reactant | EDCI | 0.20 mmol, 38 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)=O)CC(OC(C)(C)C)=O)=O | C81H121N11O20
